US03954476
The 5-acetamido-1-acetoxynaphthalene-2-sulfonyl chloride was prepared by dropwise treatment of a suspension of dry sodium 5-acetamido-1-acetoxynaphthalene-2-sulfonate in 100 ml. phosphoryl chloride with 5.5 ml. dry methylformamide in a nitrogen atmosphere. The reaction mixture was stirred 1 hour and then poured over 600 ml. of crushed ice. The crude product was filtered and dissolved immediately in 500 ml. chloroform. The solution was treated with activated charcoal and dried over anhydrous magnesium sulfate to give 10.8 g. (44%) of a resinous yellow product which showed a single spot on a thin-layer chromotography.

reactant | sodium 5-acetamido-1-acetoxynaphthalene-2-sulfonate | C(C)(=O)NC1=C2C=CC(=C(C2=CC=C1)OC(C)=O)S(=O)(=O)[O-].[Na+]
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methylformamide | CNC=O | C2H5NO
product | 5-acetamido-1-acetoxynaphthalene-2-sulfonyl chloride | C(C)(=O)NC1=C2C=CC(=C(C2=CC=C1)OC(C)=O)S(=O)(=O)Cl | C14H12ClNO5S
